US07205411B2
To a solution of 1.80 g (11.0 mmol) of 2-chloro-4,6-dimethyl-pyridin-3-ylamine (prepared as described in J. M. Klunder et al. J. Med. Chem., 35, 1992, 1887-1897) in toluene (10 ml) was added PBr3 (18 ml). The reaction mixture was stirred for 48 h under reflux. After cooling the reaction mixture, it was poured onto ice, basified with NaOH 2 M solution (400 ml) and the aqueous phase was extracted twice with ethyl acetate. The combined organic phases were washed with brine, dried over Na2SO4, filtered and evaporated. The crude residue was purified by flash chromatography (cyclohexane/ethyl acetate 7:3) to yield 2.31 g (38%) of 2-bromo-4,6-dimethyl-pyridin-3-ylamine containing small amount of 2-chloro-4,6-dimethyl-pyridin-3-ylamine as a yellow oil.

reactant | 2-chloro-4,6-dimethyl-pyridin-3-ylamine | 11.0 mmol, 1.80 g | ClC1=NC(=CC(=C1N)C)C | C7H9ClN2
reactant | PBr3 | 18 ml | P(Br)(Br)Br | Br3P
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-4,6-dimethyl-pyridin-3-ylamine | 2.31 g, 38% | BrC1=NC(=CC(=C1N)C)C | C7H9BrN2
